US05348965
Phenothiazine (3.8 g, 19 mmol) was added to a suspension of sodium hydride (0.92 g, 23 mmol, 60% oil dispersion) in dry dibutylether (25 ml) under an atmosphere of nitrogen. The mixture was heated at 135° C. for 1 h and then cooled to approximately 100° C. 2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethylchloride (8 g, 38 mmol) was added in one portion and the mixture was heated overnight at 110° C. The reaction mixture was poured into water (250 ml) and extracted with dichloromethane (3×50 ml) and diethyl ether (50 ml). The combined organic extracts were washed with brine and dried over sodium sulphate. The solvent was evaporated in vacuo leaving an oil, which was submitted to column chromatography using dichloromethane as eluent. Collecting the proper fractions afforded 3.9 g of crude 10-(2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethyl)-10H-phenothiazine. TLC: rf=0.72 (SiO2 ; dichloromethane/methanol=19:1).

reactant | Phenothiazine | 19 mmol, 3.8 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | sodium hydride | 23 mmol, 0.92 g | [H-].[Na+]
reactant | 2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethylchloride | 38 mmol, 8 g | O1C(CCCC1)OCCOCCCl | C9H17ClO3
reactant | water | 250 ml | O | H2O
solvent | dibutylether | 25 ml | C(CCC)OCCCC | C8H18O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 10-(2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethyl)-10H-phenothiazine | 3.9 g | O1C(CCCC1)OCCOCCN1C2=CC=CC=C2SC=2C=CC=CC12 | C21H25NO3S
